US04287195
A mixture of 13 parts of N-[4-(4-methoxyphenyl)-1-piperazinyl]hydrazinecarboxamide, 14.2 parts of ethanimidamide hydrochloride, 12.3 parts of sodium acetate and 95 parts of 1,1'-oxybis[2-methoxyethane] is stirred for 3 hours at 130° C. The reaction mixture is poured onto water and the product is extracted twice with dichloromethane. The combined extracts are dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 4-methyl-2-pentanone, yielding 5.1 parts (35%) of 2,4-dihydro-4-[4-(4-methoxyphenyl)-1-piperazinyl]-5-methyl-3H-1,2,4-triazol-3-one; mp. 264.3° C.

reactant | N-[4-(4-methoxyphenyl)-1-piperazinyl]hydrazinecarboxamide | COC1=CC=C(C=C1)N1CCN(CC1)NC(=O)NN | C12H19N5O2
reactant | ethanimidamide hydrochloride | Cl.C(C)(N)=N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | 1,1'-oxybis[2-methoxyethane] | O(CCOC)CCOC | C6H14O3
product | 2,4-dihydro-4-[4-(4-methoxyphenyl)-1-piperazinyl]-5-methyl-3H-1,2,4-triazol-3-one | 35% | COC1=CC=C(C=C1)N1CCN(CC1)N1C(NN=C1C)=O | C14H19N5O2
